US05650533
Ethyl 2-bromo-3-(2-methoxyethoxy)-4-methylsulphenyl-benzoate (24.3 g) was added to a solution of potassium hydroxide (9.1 g) in water (25 ml) and industrial methylated spirits (300 ml). The resultant mixture was heated at reflux for 4 hours and then allowed to cool to room temperature overnight. The mixture was evaporated and the residue dissolved in water and washed with ether. The aqueous layer was acidified to pH 1 with 2M HCl and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness yielding 2-bromo-3-(2-methoxyethoxy)-4-methylsulphenyl benzoic acid (19.4 g) as a white solid, NMR (CDCl3) 2.2(3H,s), 3.25(3H,s), 3.6(2H,t), 3.8(2H,t), 7.0(2H, m).

reactant | Ethyl 2-bromo-3-(2-methoxyethoxy)-4-methylsulphenyl-benzoate | 24.3 g | BrC1=C(C(=O)OCC)C=CC(=C1OCCOC)SC | C13H17BrO4S
reactant | potassium hydroxide | 9.1 g | [OH-].[K+]
solvent | water | 25 ml | O | H2O
product | 2-bromo-3-(2-methoxyethoxy)-4-methylsulphenyl benzoic acid | 19.4 g | BrC1=C(C(=O)O)C=CC(=C1OCCOC)SC | C11H13BrO4S
